US06699879B1
8-Fluoro-2-methoxyquinoline-4-carboxylic Acid
8-Fluoro-2-methoxyquinoline-4-carboxylic acid methyl ester (0.1 82 g) in methanol (10 ml) containing 2N sodium hydroxide (0.41 ml) was stirred at room temperature for 16 h. Solvent was removed at reduced pressure, dissolved in water, and adjusted to pH2 with 2N hydrochloric acid. The precipitated title compound (0.155 g) was collected by filtration and dried. m/z (API−): 222 (MH+). 1H NMR δ: 4.02 (3H, s), 7.44-7.62 (3H, m), 8.31 (1H, d).

reactant | 8-Fluoro-2-methoxyquinoline-4-carboxylic acid methyl ester | 82 g | COC(=O)C1=CC(=NC2=C(C=CC=C12)F)OC | C12H10FNO3
reactant | sodium hydroxide | 2N, 0.41 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 8-Fluoro-2-methoxyquinoline-4-carboxylic Acid | FC=1C=CC=C2C(=CC(=NC12)OC)C(=O)O | C11H8FNO3
